US07786129B2
3-{4-[4-(3,5-dichlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 from 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(3,5-dichlorophenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=CC=C12)=O)CC | C14H18ClNO
reactant | 1-(3,5-dichlorophenyl)-piperazine | ClC=1C=C(C=C(C1)Cl)N1CCNCC1 | C10H12Cl2N2
product | 3-{4-[4-(3,5-dichlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC=1C=C(C=C(C1)Cl)N1CCN(CC1)CCCCC1(C(NC2=CC=CC=C12)=O)CC | InChI=1S/C24H29Cl2N3O.ClH/c1-2-24(21-7-3-4-8-22(21)27-23(24)30)9-5-6-10-28-11-13-29(14-12-28)20-16-18(25)15-19(26)17-20;/h3-4,7-8,15-17H,2,5-6,9-14H2,1H3,(H,27,30);1H
